US09255090B2
Synthesis of 3-Bromo-4-trifluoromethoxy-benzoic acid (C8H4O3BrF3, MW=283.93)
To an ice-cooled solution of 3-bromo-4-(trifluoromethoxy)benzaldehyde (3.00 g, 11.2 mmol, 1 eq.) in MeOH (14 mL), a solution of hydrogen peroxide (30% wt solution in water, 14 mL, 11.2 mmol, 1 eq.) in 15% aq. NaOH soln. (14 mL) was added dropwise. The reaction mixture was stirred at 0° C. for 1 hour and further at r.t. for 18 hours. The reaction mixture was acidified by addition of conc. HCl. The suspension was filtered off and the filter cake was rinsed with H2O. The resulting white solid was dried under h.v. to give the title compound. The product was used without further purification.

reactant | 3-bromo-4-(trifluoromethoxy)benzaldehyde | 11.2 mmol, 3.00 g, 1 eq. | BrC=1C=C(C=O)C=CC1OC(F)(F)F | C8H4BrF3O2
reactant | hydrogen peroxide | 11.2 mmol, 14 mL, 1 eq. | OO | H2O2
reactant | HCl | Cl | ClH
solvent | MeOH | 14 mL | CO | CH4O
solvent | NaOH | [OH-].[Na+]
product | 3-Bromo-4-trifluoromethoxy-benzoic acid | BrC=1C=C(C(=O)O)C=CC1OC(F)(F)F | C8H4BrF3O3
